US04678786
A stirred solution of 3-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl-6-chloropyridazine (10.0 g, 0.03 mol) in 18% hydrochloric acid (60 ml) was heated under reflux for 8 hours. Potassium carbonate was added to the cold solution to take it to pH 10, and after allowing the mixture to stand for 2 hours the solid was collected by filtration and washed with water to give a crude hydrate (10.35 g). Recrystallisation from ethyl acetate gave 6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3[2H]-pyridazinone (7.42 g) as a colourless solid, m.p. 161.5°-163.5° C.

reactant | 2-(3-t-butylamino-2-hydroxypropoxy)phenyl-6-chloropyridazine | 0.03 mol, 10.0 g | C(C)(C)(C)NCC(COC1=C(C=CC=C1)C=1N=NC(=CC1)Cl)O | C17H22ClN3O2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3[2H]-pyridazinone | 7.42 g | C(C)(C)(C)NCC(COC1=C(C=CC=C1)C=1C=CC(NN1)=O)O | C17H23N3O3
